// adc_dac_ideal_4b_sine: 4-bit clocked ADC -> DAC with sine input
//
// ADC samples vin at fs = 1 GHz (period = 1 ns).
// Input sine at fin = fs/63 ~= 15.873 MHz -> 63 samples/cycle x 1 cycle.
// DAC reconstructs combinatorially; vout shows the 16-step staircase.
//
simulator lang=spectre
global 0

ahdl_include "adc_ideal_4b.va"
ahdl_include "dac_ideal_4b.va"
ahdl_include "sh_ideal.va"

parameters vdd=0.9 fs=1e9 fin=15.873016e6

// Supply rails
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0

// Sampling clock: 1 GHz  (period = 1 ns)
Vclk (clk 0) vsource type=pulse val0=0 val1=vdd period=1n \
             rise=50p fall=50p

// Reset: active-low for first 2 sampling-clock cycles (2 ns)
Vrst_n (rst_n 0) vsource type=pwl wave=[0 0  1.5n 0  2n vdd  65n vdd]

// Input: near-full-swing sine, 1 cycle at ~15.873 MHz
Vvin (vin 0) vsource type=sine sinedc=0.45 ampl=0.44 freq=fin

// ADC: vin clk vdd vss rst_n -> dout[3:0]
IADC (vin clk vdd vss rst_n dout_3 dout_2 dout_1 dout_0) \
      adc_ideal_4b

// DAC: din[3:0] vdd vss rst_n -> vout  (combinational)
IDAC (dout_3 dout_2 dout_1 dout_0 vdd vss rst_n vout) \
      dac_ideal_4b

// S&H: samples vin on same rising clk edge as ADC -> vin_sh
ISH (vin clk vdd vss rst_n vin_sh) sh_ideal

tran tran stop=65n maxstep=200p
save vin vin_sh clk rst_n vout dout_3 dout_2 dout_1 dout_0

